**8 bit ripple carry adder

*model
.include 7nm_FF.pm

.import params.cir

*sources
Vvdut vdut gnd vdd
Vvdd1 vdd1 gnd vdd
Vvdd2 vdd2 gnd vdd

**inputs A and B sources in separate file
.include sources.cir

*carry in
Vc0 c0_in gnd PWL(0n 0)

.include inverter.cir

*adder
.include ema.cir

**load
*A
Xia0 a0_in a0_in1 vdd1 gnd Inv
Xia1 a0_in1 a0 vdd1 gnd Inv
Xia2 a1_in a1_in1 vdd1 gnd Inv
Xia3 a1_in1 a1 vdd1 gnd Inv
Xia4 a2_in a2_in1 vdd1 gnd Inv
Xia5 a2_in1 a2 vdd1 gnd Inv
Xia6 a3_in a3_in1 vdd1 gnd Inv
Xia7 a3_in1 a3 vdd1 gnd Inv
Xia8 a4_in a4_in1 vdd1 gnd Inv
Xia9 a4_in1 a4 vdd1 gnd Inv
Xia10 a5_in a5_in1 vdd1 gnd Inv
Xia11 a5_in1 a5 vdd1 gnd Inv
Xia12 a6_in a6_in1 vdd1 gnd Inv
Xia13 a6_in1 a6 vdd1 gnd Inv
Xia14 a7_in a7_in1 vdd1 gnd Inv
Xia15 a7_in1 a7 vdd1 gnd Inv
*B
Xib0 b0_in b0_in1 vdd1 gnd Inv
Xib1 b0_in1 b0 vdd1 gnd Inv
Xib2 b1_in b1_in1 vdd1 gnd Inv
Xib3 b1_in1 b1 vdd1 gnd Inv
Xib4 b2_in b2_in1 vdd1 gnd Inv
Xib5 b2_in1 b2 vdd1 gnd Inv
Xib6 b3_in b3_in1 vdd1 gnd Inv
Xib7 b3_in1 b3 vdd1 gnd Inv
Xib8 b4_in b4_in1 vdd1 gnd Inv
Xib9 b4_in1 b4 vdd1 gnd Inv
Xib10 b5_in b5_in1 vdd1 gnd Inv
Xib11 b5_in1 b5 vdd1 gnd Inv
Xib12 b6_in b6_in1 vdd1 gnd Inv
Xib13 b6_in1 b6 vdd1 gnd Inv
Xib14 b7_in b7_in1 vdd1 gnd Inv
Xib15 b7_in1 b7 vdd1 gnd Inv
*C
Xic0 c0_in c0_in1 vdd1 gnd Inv
Xic1 c0_in1 c0 vdd1 gnd Inv

********************************
**DUT
XFA0 a0 b0 c0 s0_in c1 vdut gnd ema
XFA1 a1 b1 c1 s1_in c2 vdut gnd ema
XFA2 a2 b2 c2 s2_in c3 vdut gnd ema
XFA3 a3 b3 c3 s3_in c4 vdut gnd ema
XFA4 a4 b4 c4 s4_in c5 vdut gnd ema
XFA5 a5 b5 c5 s5_in c6 vdut gnd ema
XFA6 a6 b6 c6 s6_in c7 vdut gnd ema
XFA7 a7 b7 c7 s7_in c8_in vdut gnd ema
********************************

**fan-out
*S
Xis0 s0_in s0_in1 vdd2 gnd Inv M=4
Xis1 s0_in1 s0 vdd2 gnd Inv M=4
Xis2 s1_in s1_in1 vdd2 gnd Inv M=4
Xis3 s1_in1 s1 vdd2 gnd Inv M=4
Xis4 s2_in s2_in1 vdd2 gnd Inv M=4
Xis5 s2_in1 s2 vdd2 gnd Inv M=4
Xis6 s3_in s3_in1 vdd2 gnd Inv M=4
Xis7 s3_in1 s3 vdd2 gnd Inv M=4
Xis8 s4_in s4_in1 vdd2 gnd Inv M=4
Xis9 s4_in1 s4 vdd2 gnd Inv M=4
Xis10 s5_in s5_in1 vdd2 gnd Inv M=4
Xis11 s5_in1 s5 vdd2 gnd Inv M=4
Xis12 s6_in s6_in1 vdd2 gnd Inv M=4
Xis13 s6_in1 s6 vdd2 gnd Inv M=4
Xis14 s7_in s7_in1 vdd2 gnd Inv M=4
Xis15 s7_in1 s7 vdd2 gnd Inv M=4
*C
Xico0 c8_in c8_in1 vdd2 gnd Inv M=4
Xic01 c8_in1 co vdd2 gnd Inv M=4

**time measures depend on the inputs - also in separate files
.measure tran q_dut integ i(Vvdut) from=0n to=10n
.measure tran q_in integ i(Vvdd1) from=0n to=10n
.measure tran q_out integ i(Vvdd1) from=0n to=10n

**prints all S outputs

**prints all S outputs
.measure tran s0_f find v(s0) at=10n
.measure tran s1_f find v(s1) at=10n
.measure tran s2_f find v(s2) at=10n
.measure tran s3_f find v(s3) at=10n
.measure tran s4_f find v(s4) at=10n
.measure tran s5_f find v(s5) at=10n
.measure tran s6_f find v(s6) at=10n
.measure tran s7_f find v(s7) at=10n

.tran 0.1ns 10n

.end
